.subckt gm_start_up VB VDD
M0 VB VGP VDD VDD p_18 w=0.5u l=1u m=1
M1 VGP VGP VDD VDD p_18 w=0.5u l=1u m=1
M2 VB VB GND GND n_18 w=2u l=6u m=1
M3 VGP VB M3S GND n_18 w=8u l=6u m=1
R1 M3S GND 58k

M4 M4D GND VDD VDD p_18 w=0.25u l=5u m=1
M5 M5D GND M4D VDD p_18 w=0.25u l=5u m=1
M6 VGP M5D GND GND n_18 w=0.25u l=1u m=1
M7 M5D VB GND GND n_18 w=2u l=1u m=1
.ENDS

.SUBCKT TWO_OP Vip Vin VB out VDD
MB MBD VB GND GND n_18 w=0.5u l=4u m=1
M1 M1D Vin MBD GND n_18 w=1.5u l=4u m=1
M2 M2D Vip MBD GND n_18 w=1.5u l=4u m=1
M3 M1D M1D VDD VDD p_18 w=4.5u l=4u m=1
M4 M2D M1D VDD VDD p_18 w=4.5u l=4u m=1
M5 out M2D VDD VDD p_18 w=9u l=8u m=1
M6 out VB GND GND n_18 w=0.5u l=8u m=1
Rc M2D Vc 0.3x
Cc Vc out 2p
.ENDS

.SUBCKT bgr VDD VSS Vref
Q1 VSS VSS E1 VSS PNP_V100X100 m=1
Q2 VSS VSS E2 VSS PNP_V100X100 m=12
Q3 VSS VSS E3 VSS PNP_V100X100 m=1
Xgm VB VDD gm_start_up
Xop D2 E1 VB VG VDD TWO_OP
M0 E1 VG VDD VDD p_18 w=40u l=5u m=1
M1 D2 VG VDD VDD p_18 w=40u l=5u m=1
M2 Vref VG VDD VDD p_18 w=40u l=5u m=1
R1 D2 E2 40k
R2 Vref E3 412k
.ENDS

