.SUBCKT TWO_ST VDD Vip Vin Vfb Vop Von
M1 M4S Vbp VDD VDD p_18 w=8u l=2u m=1
M2 Vop Vbp VDD VDD p_18 w=4u l=2u m=1
M3 Von Vbp VDD VDD p_18 w=4u l=2u m=1
M4 M6D Vip M4S VDD p_18 w=4u l=2u m=1
M5 M7D Vin M4S VDD p_18 w=4u l=2u m=1
M6 M6D Vfb GND GND n_18 w=1u l=1u m=1
M7 M7D Vfb GND GND n_18 w=1u l=1u m=1
M8 Vop M6D GND GND n_18 w=1u l=1u m=1
M9 Von M7D GND GND n_18 w=1u l=1u m=1
CP Vop GND 1p
CN Von GND 1p

Rcn M7d Vn 400k
Ccn Vn Von 1p
Rcp M6d Vp 400k
Ccp Vp Vop 1p
Vbp Vbp GND 1.2
.ends

.SUBCKT CMFB VDD VCM out
M1 M2S Vb VDD VDD p_18 w=2.8u l=0.25u m=1
M2 out VCM M2S VDD p_18 w=1.4u l=0.25u m=1
M3 M5D Vref M2S VDD p_18 w=1.4u l=0.25u m=1
M4 out M5D GND GND n_18 w=0.35u l=0.25u m=1
M5 M5D M5D GND GND n_18 w=0.35u l=0.25u m=1
Vref Vref GND 0.9
Vb Vb GND 1.2
.ends





